US04500526
C. 7-[(Z)-2-(2-Aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[2-(pyrrolidin-1-ylcarbonylamino)-5-thiazolo[4,5-c]-pyridinio]methyl-3-cephem-4-carboxylate (It)
A solution of diphenylmethyl 7-[(Z)-2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-iodomethyl-3-cephem-4-carboxylate [VIIa] (466 mg, 0.5 mmole) and 2-(pyrrolidin-1-yl-carbonylamino)thiazolo[4,5-c]pyridine (124 mg, 0.5 mmoles) in 2 ml DMSO was allowed to stand at room temperature for 1.5 hours and then triturated with ether to give 606 mg of crude quaternary salt as a powder. The powder was added to a mixture of 5 ml of TFA and 3 drops of anisole and stirred 30 minutes at room temperature. The mixture then was evaporated under reduced pressure and triturated with ether to give 375 mg of crude It, which was purified on a column of HP-20 resin (40 ml) using 50% aqueous CH3OH as an eluant to give 165 mg (51%) of the desired product It. Mp. 184°~198° C. (dec.). Estimated purity by HPLC: 65%.

reactant | diphenylmethyl 7-[(Z)-2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-iodomethyl-3-cephem-4-carboxylate | 0.5 mmole, 466 mg | CO\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C46H38IN5O5S2
reactant | 2-(pyrrolidin-1-yl-carbonylamino)thiazolo[4,5-c]pyridine | 0.5 mmoles, 124 mg | N1(CCCC1)C(=O)NC=1SC2=C(C=NC=C2)N1 | C11H12N4OS
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
catalyst | anisole | 3 drops | C1(=CC=CC=C1)OC | C7H8O
product | 7-[(Z)-2-(2-Aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[2-(pyrrolidin-1-ylcarbonylamino)-5-thiazolo[4,5-c]-pyridinio]methyl-3-cephem-4-carboxylate | 165 mg, 51% | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC3=C(C=C2)SC(=N3)NC(=O)N3CCCC3)C(=O)[O-])C1=O)=N/OC | C25H25N9O6S3
